US07737166B2
4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide (#131)
Under nitrogen atmosphere, a dimethyl sulfoxide (1 ml) solution of (3S)-3-(dimethylamino)pyrrolidine (49 μl, 383 μmol) was added at 140 to 150° C. to a dimethyl sulfoxide (5 ml) solution of 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide (I-284) (112 mg, 319 μmol) and triethylamine (58 μl, 415 μmol), followed by stirring at the same temperature for 140 minutes. After cooling, saturated brine was added to the reaction liquid, and the reaction liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under the reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, dichloromethane:methanol==10:1, v/v) to obtain the entitled compound (62 mg, 44%) as an amorphous substance.

reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(dimethylamino)pyrrolidine | 383 μmol, 49 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide | 319 μmol, 112 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC)C)F)C2=CC=CC=C2)C | C20H18FN3O2
reactant | triethylamine | 415 μmol, 58 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
product | 4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-N,5-dimethyl-6-phenyl-N-propyl-1,3-benzoxazole-2-carboxamide | 62 mg, 44% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(CCC)C)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C26H31N5O2
